*****************************************************************
* NXP PSMN075-100MSE
*
* Polarity N-Channel
* Ratings 100V/7.080000E-002OHMS/18.3888677762575A
*
* Date Created Fri Mar 01 05:52:25 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN075-100MSE DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0420784630794136 TC=0.01264691797372,6.706515161878E-06
RBD 9 4 0.00458931681592892 TC=0.01264691797372,6.706515161878E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 6.14490353876536e-10
RG 1 2 1.52663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ 0	627.36094
+ 0.1	308.22912
+ 0.2	307.9018
+ 0.5	256.22964
+ 1	218.30476
+ 2	168.3764
+ 3	143.99784
+ 4	129.1988
+ 5	118.39956
+ 6	110.28948
+ 8	98.88156
+ 10	90.9432
+ 12	84.86394
+ 15	77.89798
+ 16	75.87811
+ 20	69.61564
+ 25	63.67914
+ 30	59.11476
+ 50	47.77251



.MODEL MINT NMOS(Vto=3.6376457529415 Kp=1.345591e+001 Nfs=630000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=2.78928034098088e-13
+ N=1 M=0.64 VJ=0.5 Fc=0.5 Cjo=2.5409784e-10 Tt=2.6088e-08)

.ENDS

